US06136823
Synthesis of Ethyl 8-Chloro-6,7-difluoro-1-(4-fluoro-5-methoxy-2-nitrophenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate
Ethyl 8-chloro-6,7-difluoro-1-(4-fluoro-3-methoxyphenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate (830 mg) was added to concentrated sulfuric acid (4 ml), and anhydrous potassium nitrate (250 mg) was added portionwise to the mixture while stirring under ice cooling. The resultant mixture was stirred for 15 minutes under ice cooling and for 50 minutes at room temperature. The reaction mixture was poured into ice water (50 ml) and then extracted with chloroform (50 ml). After a chloroform layer was washed with distilled water (20 ml), dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. Deposits were dispersed in ethanol, collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (528 mg) as a colorless powder.

reactant | Ethyl 8-chloro-6,7-difluoro-1-(4-fluoro-3-methoxyphenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 830 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=CC(=C(C=C1)F)OC)C(=O)OCC)=O)F)F | C19H13ClF3NO4
reactant | sulfuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium nitrate | 250 mg | [N+](=O)([O-])[O-].[K+]
product | Ethyl 8-Chloro-6,7-difluoro-1-(4-fluoro-5-methoxy-2-nitrophenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 528 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=C(C=C(C(=C1)OC)F)[N+](=O)[O-])C(=O)OCC)=O)F)F | C19H12ClF3N2O6
